US08198295B2
C. Phenyl-acetic acid (S)-2-isopropylamino-propyl ester hydrochloride
To a suspension of 10 g of (S)-2-isopropylamino-propan-1-ol hydrochloride in 300 ml of dichloromethane 10 ml of phenylacetic acid chloride are added. The reaction mixture is stirred at RT for about 15 h and then substantially concentrated under reduced pressure, and the highly viscous residue is partitioned between dichloromethane and saturated sodium bicarbonate solution. The organic phase is washed with water, dried over sodium sulfate and concentrated. The resin-like residue is purified by silica gel chromatography, and the product fraction is separated off and concentrated. The residue is dissolved in 150 ml of 2-propanol and 25 ml 2 N HCl in water are added. The mixture is stirred for about 15 h and the resulting crystals are filtered off. This gives 10.9 g of the title compound. M. p. 114-118° C. (unsharp)

reactant | (S)-2-isopropylamino-propan-1-ol hydrochloride | 10 g | Cl.C(C)(C)N[C@H](CO)C
reactant | phenylacetic acid chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | Phenyl-acetic acid (S)-2-isopropylamino-propyl ester hydrochloride | Cl.C(C)(C)N[C@H](COC(CC1=CC=CC=C1)=O)C | InChI=1S/C14H21NO2.ClH/c1-11(2)15-12(3)10-17-14(16)9-13-7-5-4-6-8-13;/h4-8,11-12,15H,9-10H2,1-3H3;1H/t12-;/m0./s1
